US07985753B2
1-Methyl-5-trifluoromethyl-3,4-dihydro-isoquinoline
In close analogy to the procedure described above, N-[2-(2-trifluormethyl-phenyl)-ethyl]-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-[2-(2-trifluormethyl-phenyl)-ethyl]-acetamide | FC(C1=C(C=CC=C1)CCNC(C)=O)(F)F | C11H12F3NO
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 1-Methyl-5-trifluoromethyl-3,4-dihydro-isoquinoline | CC1=NCCC2=C(C=CC=C12)C(F)(F)F | C11H10F3N
